US07951805B2
SYNTHESIS OF 6-(4-HYDROXYMETHYLPIPERIDIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
To a stirred solution of 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)-amide (0.200 g, 0.90 mmol) in 1,4-dioxane (10 mL) was added 4-piperidine methanol (0.155 g, 1.40 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.4 mL, 2.700 mmol) and tetrabutyl ammonium bromide (0.032 g, 0.10 mmol). The resulting mixture was stirred at reflux for 18 hours. 1,4-Dioxane was removed in vacuo and the obtained crude product was used without further purification.

reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)-amide | 0.90 mmol, 0.200 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
reactant | 4-piperidine methanol | 1.40 mmol, 0.155 g | N1CCC(CC1)CO | C6H13NO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.700 mmol, 0.4 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tetrabutyl ammonium bromide | 0.10 mmol, 0.032 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-(4-HYDROXYMETHYLPIPERIDIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)CO | C16H24N4O2
